US06403610B1
A mixture of 0.874 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,5-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate in 8.8 cm3 of dioxane to which had been added 1.37 cm3 of 5N aqueous sodium hydroxide solution was stirred for 17 hours at a temperature in the region of 60° C. After cooling to approximately 20° C., the reaction mixture was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. An oil was obtained, which product was purified by chromatography under a nitrogen pressure of 50 kPa on a column of silica gel (particle size 20-45 μ; diameter 3 cm; 25 g), elution was carried out with a dichloromethane/methanol (85/15 by volume) mixture, first a fraction of 100 cm3 was collected and then 50-cm3 fractions were collected. Fractions 3 and 4 were combined and concentrated as above. The evaporation residue was taken up in dichloromethane and filtered. The filtrate was concentrated as under the above conditions and then the product obtained was taken up with stirring in 40 cm3 of a pentane/diisopropyl ether (50/50 by volume) mixture for 16 hours at a temperature in the region of 20° C. The crystals obtained were filtered off and washed with 2 times 10 cm3 of the same mixture as above and then 3 times 20 cm3 of pentane. 0.392 g of (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,5-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylic acid was obtained in the form of a pale yellow solid melting at 109° C. which was a mixture of two diastereoisomers.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,5-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate | 0.874 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC1=C(C=CC(=C1)F)F)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C29H30F2N2O4
reactant | sodium hydroxide | 5N, 1.37 cm3 | [OH-].[Na+]
solvent | dioxane | 8.8 cm3 | O1CCOCC1 | C4H8O2
solvent | pentane diisopropyl ether | 40 cm3 | CCCCC.C(C)(C)OC(C)C
product | (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,5-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylic acid | 0.392 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC1=C(C=CC(=C1)F)F)C(=O)O)C1=CC=NC2=CC=C(C=C12)OC | C28H28F2N2O4
